US07053041B1
Fmoc-Arg(Mtr)-Gly-Asp(OBut)-DPhe-NMeVal-ONa (SEQ ID NO 41) is synthesized using solid-phase Merrifield-type procedures by sequentially adding NMeVal, DPhe, Asp(OBut), Gly and Fmoc-Arg(Mtr) in a step-wise manner to a 4-hydroxymethyl-phenoxymethyl-polystyrene resin (Wang type resin) (customary Merrifield-type methods of peptide synthesis are applied as described in Houben-Weyl, l.c., Volume 15/II, Pages 1 to 806 (1974). The polystyrene resin and amino acid residues precursors are commercially available from Aldrich, Sigma or Fluka chemical companies). After completion of sequential addition of the amino acid residues, the resin is then eliminated from the peptide chain using a 1:1 mixture of TFA/dichloromethane which provides the Fmoc-Arg(Mtr)-Gly-Asp(OBut)-DPhe-NMeVal-OH product (SEQ ID NO 42). The Fmoc group is then removed with a 1:1 mixture of piperidine/DMF which provides the crude Arg(Mtr)-Gly-Asp(OBut)-DPhe-NMeVal-OH (SEQ ID NO 43) precursor which is then purified by HPLC in the customary manner.

reactant | Fmoc-Arg(Mtr)-Gly-Asp(OBut)-DPhe-NMeVal-ONa | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)=N)C(=O)NCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)O[Na])C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12
reactant | NMeVal | N([C@@H](C(C)C)C(=O)O)C | C6H13NO2
reactant | DPhe | N[C@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | Asp(OBut) | N[C@@H](CC(OC(C)(C)C)=O)C(=O)O | C8H15NO4
reactant | Gly | NCC(=O)O | C2H5NO2
reactant | Fmoc-Arg(Mtr) | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)=N)C(=O)O)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C31H36N4O7S
reactant | TFA dichloromethane | C(=O)(C(F)(F)F)O.ClCCl
product | Fmoc-Arg(Mtr)-Gly-Asp(OBut)-DPhe-NMeVal-OH | N([C@@H](CCCNC(NS(=O)(=O)C1=C(C)C=C(OC)C(C)=C1C)=N)C(=O)NCC(=O)N[C@@H](CC(OC(C)(C)C)=O)C(=O)N[C@H](CC1=CC=CC=C1)C(=O)N([C@@H](C(C)C)C(=O)O)C)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C56H72N8O13S
